US07576115B2
Synthesis of methyl 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate
To a suspension of 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene (54.8 mg, 0.2 mmol) and methyl 2-acetamino-4-hydrazinocarbonylbenzoate (50.2 mg, 0.2 mmol) in isopropyl alcohol (2 mL), tosylic acid monohydrate (11.4 mg, 0.06 mmol) was added, and the mixture was heated with reflux for 12 hours. The precipitated solid was filtered to obtain 84 mg of the desired product as a pale yellow solid (yield 83%).

reactant | 2-(4-t-butylphenyl)-3-hydroxy-4-methylcarbonylthiophene | 0.2 mmol, 54.8 mg | C(C)(C)(C)C1=CC=C(C=C1)C=1SC=C(C1O)C(=O)C | C16H18O2S
reactant | methyl 2-acetamino-4-hydrazinocarbonylbenzoate | 0.2 mmol, 50.2 mg | N(C(=O)C)C1=C(C(=O)OC)C=CC(=C1)C(=O)NN | C11H13N3O4
reactant | tosylic acid monohydrate | 0.06 mmol, 11.4 mg | O.S(=O)(=O)(O)C1=CC=C(C)C=C1
solvent | isopropyl alcohol | 2 mL | C(C)(C)O | C3H8O
product | methyl 2-acetamino-4-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-3-thienyl]ethylidene}hydrazino)carbonyl]benzoate | 84 mg, yield 83% | N(C(=O)C)C1=C(C(=O)OC)C=CC(=C1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC=C(C=C1)C(C)(C)C | C27H29N3O5S
